US07674789B2
1,1-dimethylethyl {1-[8-(2,6-difluorophenyl)-4-(2-methyl-5-{[(phenylmethyl)amino]carbonyl}phenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]-4-piperidinyl}methylcarbamate
Compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide (0.0811 g, 0.144 mmol) was dissolved in CH2Cl2 (5 mL) and 1,1-dimethylethyl methyl(4-piperidinyl)carbamate (0.0394 g, 0.18 mmol) and triethylamine (0.029 g, 0.288 mmol) were added. The reaction mixture was stirred for 4 days. Additional 1,1-dimethylethyl methyl(4-piperidinyl)carbamate (0.0788 g, 0.36 mmol) and triethylamine (0.058 g, 0.576 mmol) were added and the mixture was stirred under argon at room temperature for an additional 7 days. The solvents were pumped off in vacuo, and the residue taken up in EtOAc and washed with 1 N NaOH, brine, dried over anhydrous Na2SO4 filtered and evaporated. The residue was flash chromatographed on silica gel (20 g) eluted with 0-70% EtOAc/hexane. Some impurities remained, so the material was rechromatographed on silica gel (20 g) eluted with 0-50% EtOAc/hexane to give the title compound as a white amorphous solid. mp (dec) 146-150° C. LC-MS m/z 698 (M+H)+, 2.66 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide | 0.144 mmol, 0.0811 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2C)S(=O)(=O)C)=O | C28H23F2N5O4S
reactant | 1,1-dimethylethyl methyl(4-piperidinyl)carbamate | 0.18 mmol, 0.0394 g | CN(C(OC(C)(C)C)=O)C1CCNCC1 | C11H22N2O2
reactant | triethylamine | 0.288 mmol, 0.029 g | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethylethyl methyl(4-piperidinyl)carbamate | 0.36 mmol, 0.0788 g | CN(C(OC(C)(C)C)=O)C1CCNCC1 | C11H22N2O2
reactant | triethylamine | 0.576 mmol, 0.058 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,1-dimethylethyl {1-[8-(2,6-difluorophenyl)-4-(2-methyl-5-{[(phenylmethyl)amino]carbonyl}phenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]-4-piperidinyl}methylcarbamate | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C2=C(C=CC(=C2)C(=O)NCC2=CC=CC=C2)C)N2CCC(CC2)CNC(OC(C)(C)C)=O)=O | C38H41F2N7O4
